US09260434B2
Methyl 2-bromo-3-fluorobenzoate
To a suspension of 2-bromo-3-fluorobenzoic acid (300 mg, 1.37 mmol) in methanol (10 mL) at rt, was added SOCl2 (0.11 mL, 1.51 mmol) and the mixture was stirred at rt for 18 h. The solvent was distilled off under reduced pressure. The crude was basified by adding saturated aqueous NaHCO3 solution and the aqueous layer was extracted with EtOAc (3×25 mL). The combined organic layers were dried over Na2SO4, filtered and concentrated. The obtained crude product was used in the next step without further purification.

reactant | 2-bromo-3-fluorobenzoic acid | 1.37 mmol, 300 mg | BrC1=C(C(=O)O)C=CC=C1F | C7H4BrFO2
reactant | SOCl2 | 1.51 mmol, 0.11 mL | O=S(Cl)Cl | Cl2OS
reactant | methanol | 10 mL | CO | CH4O
product | Methyl 2-bromo-3-fluorobenzoate | BrC1=C(C(=O)OC)C=CC=C1F | C8H6BrFO2
